US07273865B2
A stirred suspension of 6.20 g (20.9 mmol) 5-iodo-2-phenyl-pyridin-4-ylamine, 319 mg (1.68 mmol) copper(I) iodide, 453 mg (2.51 mmol) 1,10-phenanthroline and 13.6 g (41.9 mmol) cesium carbonate in 40 ml methanol was heated at 130° C. for 20 min in a microwave oven. The resulting mixture was then cooled to room temperature and concentrated in vacuo. The residue was resuspended in 500 ml dichloromethane and extracted three times with 200 ml portions of 1 M aq. hydrochloric acid. The combined acid extracts were then made basic by addition of 5 N aq. sodium hydroxide solution and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (methanol/dichloromethane 3/97-5/95) afforded 1.87 g (45%) 5-methoxy-2-phenyl-pyridin-4-ylamine as a dark red oil. ES-MS m/e (%): 201 (M+H+, 100).

reactant | 5-iodo-2-phenyl-pyridin-4-ylamine | 20.9 mmol, 6.20 g | IC=1C(=CC(=NC1)C1=CC=CC=C1)N | C11H9IN2
reactant | 1,10-phenanthroline | 2.51 mmol, 453 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 41.9 mmol, 13.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 40 ml | CO | CH4O
catalyst | copper(I) iodide | 1.68 mmol, 319 mg | [Cu]I
product | 5-methoxy-2-phenyl-pyridin-4-ylamine | 1.87 g, 45% | COC=1C(=CC(=NC1)C1=CC=CC=C1)N | C12H12N2O
